US04109000
0.8 Gram of methyl 5-(4-acetaminobenzyl)picolinate and 20 ml. of concentrated hydrochloric acid were heated under reflux for 3 hours. Then, concentrated hydrochloric acid was distilled out under reduced pressure. Ethyl alcohol was added thereto and thus resulting crystals were collected by filtration and dried at room temperature under reduced pressure to obtain 0.7 g of 5-(4-aminobenzyl)picolinic acid dihydrochloride as colorless crystals of a decomposition point of 217°-223° C.

reactant | methyl 5-(4-acetaminobenzyl)picolinate | N(C(=O)C)C1=CC=C(CC=2C=CC(=NC2)C(=O)OC)C=C1 | C16H16N2O3
reactant | hydrochloric acid | Cl | ClH
product | 5-(4-aminobenzyl)picolinic acid dihydrochloride | 0.7 g | Cl.Cl.NC1=CC=C(CC=2C=CC(=NC2)C(=O)O)C=C1 | InChI=1S/C13H12N2O2.2ClH/c14-11-4-1-9(2-5-11)7-10-3-6-12(13(16)17)15-8-10;;/h1-6,8H,7,14H2,(H,16,17);2*1H
